### PR TITLE
feat: the definition of a KSheaf on a T2 Space

### PR DESCRIPTION
**Pull request by ymonbru**
This files adds the definition of a KSheaf on a T2 space with value in an arbitrary category.

One may expect this notion to come from sheaves on a site of compact subset of a topological space but there is no coresponding Grothendieck topology on compact subsets. In particular, this is because one of the axioms is in the form of a colimit and can't be expressed as a limit condition (hence a sheaf condition).

It also adds API that allow to use the axioms in a convenient way.

---
- [ ] depends on: #40737

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 1]
```diff
@@ -0,0 +1,146 @@
...
+variable {A : Type u} [Category.{v} A] {X : TopCat.{w}}
+
+namespace TopCat
+
+variable (A X) in
+/-- The category of `A`-valued presheaves on a (bundled) topological space `X`. -/
+def KPresheaf : Type max u v w := (Compacts X)ᵒᵖ ⥤ A
+
+instance : Category (KPresheaf.{w, v, u} A X) :=
+  inferInstanceAs (Category ((Compacts X)ᵒᵖ ⥤ A : Type max u v w))
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
abbrev KPresheaf : Type max u v w := (Compacts X)ᵒᵖ ⥤ A
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+    (f ≫ g).app K = f.app K ≫ g.app K := rfl
+
+@[ext]
+lemma ext (P Q : KPresheaf A X) (f g : P ⟶ Q) (w : ∀ K : Compacts X, f.app (op K) = g.app (op K)) :
+    f = g := by
+  apply NatTrans.ext
+  ext K
+  induction K with | _ K => ?_
+  apply w
+
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]: By making an `abbrev` above, this should no longer be necessary.

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+  nonempty_isColimit_coconeOfCompacts (K : Compacts X) :
+      Nonempty (IsColimit (P.coconeOfCompacts K))
+
+end KPresheaf
+
+variable [T2Space X]
+
+variable (X A) in
+/-- The category of Ksheaves taking values in `A` on a T2Space. -/
+abbrev KSheaf := ObjectProperty.FullSubcategory (KPresheaf.IsKSheaf (X := X) (A := A))
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]: I would suggest doing this:
```lean
variable (X A) in
abbrev KPresheaf.isKSheaf : ObjectProperty (KPresheaf A X) := fun P ↦ P.IsKSheaf

variable (X A) in
/-- The category of Ksheaves taking values in `A` on a T2Space. -/
abbrev KSheaf := ObjectProperty.FullSubcategory (KPresheaf.isKSheaf A X)
```

File: Mathlib/Topology/Sheaves/KSheaf.lean (hunk 2 above)
Comment (ymonbru) [reply Mathlib/Topology/Sheaves/KSheaf.lean]: Should i do the same modification for Presheaves (in the same PR or another)?

**Comment by ymonbru** [comment]
-awaiting-author

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 4]
```diff
@@ -0,0 +1,133 @@
...
+      (P.map <| opHomOfLE h.le₁₂) (P.map <| opHomOfLE h.le₁₃)
+  nonempty_isColimit_coconeOfCompacts (K : Compacts X) :
+      Nonempty (IsColimit (P.coconeOfCompacts K))
+
+end KPresheaf
+
+variable [T2Space X]
+
+variable (X A) in
+/-- The pbject property of being a KSheaf -/
```
Comment (Multramate) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
/-- The object property of being a KSheaf -/
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 5]
```diff
@@ -0,0 +1,133 @@
...
+
+variable (X A) in
+/-- The category of Ksheaves taking values in `A` on a T2Space. -/
+abbrev KSheaf := ObjectProperty.FullSubcategory (KPresheaf.isKSheaf A X)
+
+namespace KSheaf
+
+set_option backward.isDefEq.respectTransparency false in
+/-- For`K`a compact and `P`a KSheaf, this is a recipi to build maps from
+`P.obj (op K)` by only using the open relatively comapct neighbourhoods and not
```
Comment (Multramate) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
`P.obj (op K)` by only using the open relatively compact neighbourhoods and not
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 6]
```diff
@@ -0,0 +1,133 @@
...
+neighbourhood of `K` -/
+def coconeOfClosureOfOpens (P : KPresheaf A X) (K : Compacts X) :=
+  Cocone.whisker K.openRcNhdsToCompactNhds_mono.functor.op <| P.coconeOfCompacts K
+
+variable [T2Space X]
+
+set_option backward.isDefEq.respectTransparency false in
+/-- For`K`a compact and `P`a KPresheaf verifying the third axiom of KSheaves, this is
+a recipi to build maps from `P.obj(op K)` by only using the open relatively
+comapct neighbourhoods and not all the compacts neighbourhoods. -/
```
Comment (Multramate) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
compact neighbourhoods and not all the compacts neighbourhoods. -/
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 7]
```diff
@@ -0,0 +1,133 @@
...
+variable (A X) in
+/-- The category of `A`-valued presheaves on a (bundled) topological space `X` -/
+abbrev KPresheaf : Type max u v w := (Compacts X)ᵒᵖ ⥤ A
+
+namespace KPresheaf
+
+set_option backward.isDefEq.respectTransparency false in
+set_option backward.defeqAttrib.useBackward true in
+/-- If `P` is a KPresheaf, and `K` a compact subset then `P.obj (op K)` is equiped with a
+structure of cocone over the diagramm defined by the `P.obj (op L)` for `L` a compact
```
Comment (Multramate) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
structure of cocone over the diagram defined by the `P.obj (op L)` for `L` a compact
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 8]
```diff
@@ -0,0 +1,133 @@
...
+    Cocone ((Subtype.mono_coe K.compactNhds).functor.op ⋙ P) where
+  pt := P.obj (op K)
+  ι.app K' := P.map <| opHomOfLE (Compacts.subset_of_mem_compactNhds K'.unop.prop)
+  ι.naturality _ _ _ := by
+    dsimp
+    rw [← P.map_comp, Category.comp_id]
+    rfl
+
+/-- For `P` a KPresheaf, and `K` a compact subset then `P.obj (op K)` is equiped with a
+structure of cocone over the diagramm defined by the `P.obj (op (closure (U : Set X))`
```
Comment (Multramate) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
structure of cocone over the diagram defined by the `P.obj (op (closure (U : Set X))`
```

**Review by Multramate — COMMENTED** [review]
Typos

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 9]
```diff
@@ -0,0 +1,133 @@
...
+namespace KPresheaf
+
+set_option backward.isDefEq.respectTransparency false in
+set_option backward.defeqAttrib.useBackward true in
+/-- If `P` is a KPresheaf, and `K` a compact subset then `P.obj (op K)` is equiped with a
+structure of cocone over the diagram defined by the `P.obj (op L)` for `L` a compact
+neighbourhood of `K` -/
+@[simps]
+def coconeOfCompacts (P : KPresheaf A X) (K : Compacts X) :
+    Cocone ((Subtype.mono_coe K.compactNhds).functor.op ⋙ P) where
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]: Doing this allows to remove all the `set_option` in the file:
```suggestion
    Cocone ((Set.mono_coe K.compactNhds).functor.op ⋙ P) where
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 10]
```diff
@@ -0,0 +1,133 @@
...
+abbrev KPresheaf : Type max u v w := (Compacts X)ᵒᵖ ⥤ A
+
+namespace KPresheaf
+
+set_option backward.isDefEq.respectTransparency false in
+set_option backward.defeqAttrib.useBackward true in
+/-- If `P` is a KPresheaf, and `K` a compact subset then `P.obj (op K)` is equiped with a
+structure of cocone over the diagram defined by the `P.obj (op L)` for `L` a compact
+neighbourhood of `K` -/
+@[simps]
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]: All functors and (co)cones should be tagged `implicit_reducible`:
```suggestion
@[simps, implicit_reducible]
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 11]
```diff
@@ -0,0 +1,133 @@
...
+  ι.naturality _ _ _ := by
+    dsimp
+    rw [← P.map_comp, Category.comp_id]
+    rfl
+
+/-- For `P` a KPresheaf, and `K` a compact subset then `P.obj (op K)` is equiped with a
+structure of cocone over the diagram defined by the `P.obj (op (closure (U : Set X))`
+for `U` an open
+neighbourhood of `K` -/
+def coconeOfClosureOfOpens (P : KPresheaf A X) (K : Compacts X) :=
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
@[simps!, implicit_reducible]
def coconeOfClosureOfOpens (P : KPresheaf A X) (K : Compacts X) :=
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 12]
```diff
@@ -0,0 +1,133 @@
...
+    (α : (K.openRcNhdsToCompactNhds_mono.functor.op ⋙ (Subtype.mono_coe _).functor.op ⋙ P) ⟶ G) :
+    P.obj (op K) ⟶ t.pt :=
+  ((Functor.Final.isColimitWhiskerEquiv _ _).invFun h ).map t α
+
+set_option backward.isDefEq.respectTransparency false in
+@[ext]
+lemma hom_K_ext (P : KPresheaf A X) {K : Compacts X} (h : (IsColimit (P.coconeOfCompacts K)))
+    {W : A} {f f' : P.obj (op K) ⟶ W}
+    (w : ∀ V, (P.coconeOfClosureOfOpens K).ι.app V ≫ f = (P.coconeOfClosureOfOpens K).ι.app V ≫ f')
+    : f = f' :=
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
    (w : ∀ V, (P.coconeOfClosureOfOpens K).ι.app V ≫ f =
      (P.coconeOfClosureOfOpens K).ι.app V ≫ f') :
    f = f' :=
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 13]
```diff
@@ -0,0 +1,133 @@
...
+namespace KSheaf
+
+set_option backward.isDefEq.respectTransparency false in
+/-- For`K`a compact and `P`a KSheaf, this is a recipi to build maps from
+`P.obj (op K)` by only using the open relatively compact neighbourhoods and not
+all the compacts neighbourhoods. -/
+noncomputable def mapOfOpenClosure (P : KSheaf A X) (K : Compacts X) {G : (K.openRcNhds)ᵒᵖ ⥤ A}
+    (t : Cocone G)
+    (α : (K.openRcNhdsToCompactNhds_mono.functor.op ⋙ (Subtype.mono_coe _).functor.op ⋙ P.obj) ⟶ G)
+    : P.obj.obj (op K) ⟶ t.pt :=
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
    (α : (K.openRcNhdsToCompactNhds_mono.functor.op ⋙ (Subtype.mono_coe _).functor.op ⋙ P.obj) ⟶ G) :
    P.obj.obj (op K) ⟶ t.pt :=
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 14]
```diff
@@ -0,0 +1,133 @@
...
+
+variable [T2Space X]
+
+set_option backward.isDefEq.respectTransparency false in
+/-- For`K`a compact and `P`a KPresheaf verifying the third axiom of KSheaves, this is
+a recipi to build maps from `P.obj(op K)` by only using the open relatively
+compact neighbourhoods and not all the compacts neighbourhoods. -/
+noncomputable def mapOfOpenClosure (P : KPresheaf A X) (K : Compacts X)
+    (h : (IsColimit (P.coconeOfCompacts K))) {G : (K.openRcNhds)ᵒᵖ ⥤ A} (t : Cocone G)
+    (α : (K.openRcNhdsToCompactNhds_mono.functor.op ⋙ (Subtype.mono_coe _).functor.op ⋙ P) ⟶ G) :
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
    (α : (K.openRcNhdsToCompactNhds_mono.functor.op ⋙ (Set.mono_coe _).functor.op ⋙ P) ⟶ G) :
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 15]
```diff
@@ -0,0 +1,133 @@
...
+    P.obj (op K) ⟶ t.pt :=
+  ((Functor.Final.isColimitWhiskerEquiv _ _).invFun h ).map t α
+
+set_option backward.isDefEq.respectTransparency false in
+@[ext]
+lemma hom_K_ext (P : KPresheaf A X) {K : Compacts X} (h : (IsColimit (P.coconeOfCompacts K)))
+    {W : A} {f f' : P.obj (op K) ⟶ W}
+    (w : ∀ V, (P.coconeOfClosureOfOpens K).ι.app V ≫ f = (P.coconeOfClosureOfOpens K).ι.app V ≫ f')
+    : f = f' :=
+  ((Functor.Final.isColimitWhiskerEquiv _ _).invFun h ).hom_ext w
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]: `Equiv.symm` is preferred over `Equiv.invFun`:
```suggestion
  ((Functor.Final.isColimitWhiskerEquiv _ _).symm h).hom_ext w
```
Could you make similar changes below?

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 16]
```diff
@@ -0,0 +1,133 @@
...
+    (h : (IsColimit (P.coconeOfCompacts K))) {G : (K.openRcNhds)ᵒᵖ ⥤ A} (t : Cocone G)
+    (α : (K.openRcNhdsToCompactNhds_mono.functor.op ⋙ (Subtype.mono_coe _).functor.op ⋙ P) ⟶ G) :
+    P.obj (op K) ⟶ t.pt :=
+  ((Functor.Final.isColimitWhiskerEquiv _ _).invFun h ).map t α
+
+set_option backward.isDefEq.respectTransparency false in
+@[ext]
+lemma hom_K_ext (P : KPresheaf A X) {K : Compacts X} (h : (IsColimit (P.coconeOfCompacts K)))
+    {W : A} {f f' : P.obj (op K) ⟶ W}
+    (w : ∀ V, (P.coconeOfClosureOfOpens K).ι.app V ≫ f = (P.coconeOfClosureOfOpens K).ι.app V ≫ f')
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]: I would suggest doing this, which simplifies the assumption while keeping a reasonably compact syntax:
```suggestion
    (w : ∀ V, dsimp% (P.coconeOfClosureOfOpens K).ι.app V ≫ f = (P.coconeOfClosureOfOpens K).ι.app V ≫ f')
```

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 17]
```diff
@@ -0,0 +1,133 @@
...
+compact neighbourhoods and not all the compacts neighbourhoods. -/
+noncomputable def mapOfOpenClosure (P : KPresheaf A X) (K : Compacts X)
+    (h : (IsColimit (P.coconeOfCompacts K))) {G : (K.openRcNhds)ᵒᵖ ⥤ A} (t : Cocone G)
+    (α : (K.openRcNhdsToCompactNhds_mono.functor.op ⋙ (Subtype.mono_coe _).functor.op ⋙ P) ⟶ G) :
+    P.obj (op K) ⟶ t.pt :=
+  ((Functor.Final.isColimitWhiskerEquiv _ _).invFun h ).map t α
+
+set_option backward.isDefEq.respectTransparency false in
+@[ext]
+lemma hom_K_ext (P : KPresheaf A X) {K : Compacts X} (h : (IsColimit (P.coconeOfCompacts K)))
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]: The name could be `hom_ext_of_isColimit_coconeOfCompacts`? (and maybe `hom_ext_of_compacts` below?).

File: Mathlib/Topology/Sheaves/KSheaf.lean [hunk 18]
```diff
@@ -0,0 +1,133 @@
...
+set_option backward.isDefEq.respectTransparency false in
+/-- For`K`a compact and `P`a KSheaf, this is a recipi to build maps from
+`P.obj (op K)` by only using the open relatively compact neighbourhoods and not
+all the compacts neighbourhoods. -/
+noncomputable def mapOfOpenClosure (P : KSheaf A X) (K : Compacts X) {G : (K.openRcNhds)ᵒᵖ ⥤ A}
+    (t : Cocone G)
+    (α : (K.openRcNhdsToCompactNhds_mono.functor.op ⋙ (Subtype.mono_coe _).functor.op ⋙ P.obj) ⟶ G)
+    : P.obj.obj (op K) ⟶ t.pt :=
+  ((Functor.Final.isColimitWhiskerEquiv _ _).invFun
+  (Classical.choice <| P.property.nonempty_isColimit_coconeOfCompacts K) ).map t α
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]:
```suggestion
  ((Functor.Final.isColimitWhiskerEquiv _ _).symm
    (P.property.nonempty_isColimit_coconeOfCompacts K).some).map t α
```

Comment (joelriou) [inline Mathlib/Topology/Sheaves/KSheaf.lean]: Actually, it would be convenient to transform `(P.property.nonempty_....).some` as an unexposed definition `KSheaf.isColimit`.
